US05726295
Preparation of 7-Benzyloxy-4-hydroxy-coumarin
4-Benzyloxy-2-hydroxy-acetophenone (20 g, 0.0825 mol), prepared in accordance with Example 4, was dissolved in 150 mL of toluene. To this solution was added diethyl carbonate (25.3 g, 0.21 mol) and the entire contents taken in a beaker was heated while stirring to dissolve the starting material. This solution was then taken in an addition funnel and was added at a rate of 7-8 mL/min (addition time=1.5 hrs) to a suspension of sodium hydride (4.3 g, 10.1 mol) in toluene (100 mL) taken in a 500 mL 4-neck flask equipped with a mechanical stirrer, a distillation apparatus (double jacketed-splitter heads) with a condenser, a thermocouple, and a thermometer to read the temperature of the distillate under N2 atmosphere. The reaction flask was heated to 110°-115° C. with a heating mantle during the addition. Ethanol produced during this reaction is removed as an azeotrope with toluene. Additional toluene was added through the addition funnel to have enough of toluene in the reaction flask. The reaction mixture was refluxed for ~5 hrs to complete the reaction. The contents of the reaction flask were transferred to a separatory funnel and 400 mL of distilled water was added to separate into two phases. The aqueous layer was acidified to pH 2.0 with 1:1 dil. HCl and filtered under vacuum. The crude product was recrystallized from hot methanol; yield 84%.

reactant | diethyl carbonate | 0.21 mol, 25.3 g | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 10.1 mol, 4.3 g | [H-].[Na+]
reactant | Ethanol | C(C)O | C2H6O
reactant | water | 400 mL | O | H2O
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Benzyloxy-4-hydroxy-coumarin | yield 84% | C(C1=CC=CC=C1)OC1=CC=C2C(=CC(OC2=C1)=O)O | C16H12O4
